US07829584B2
Bis-tert-butoxycarbonyl-(5-methyl-benzo[d]isoxazol-3-yl)-amine
To a solution of 5-methyl-benzo[d]isoxazol-3-ylamine (4.6 g) in anhydrous DCM (50 mL) was slowly added a solution of (Boc)2O in anhydrous DCM (50 mL) and 50 mg of DMAP. After refluxing overnight, TLC showed complete reaction. LCMS/ELSD showed formation of the desired product (M+H: 349.2). The reaction was quenched with aqueous sodium carbonate (1 M, 50 mL) and stirred for 1 hr at room temperature. The organic layer was dried over anhydrous sodium sulfate. After rotary evaporation of most solvent, the concentrated solution was loaded onto a 50 g ISOLUTE silica cartridge and eluted with EtOAc/Hexane (from 1:10 to 1:2). Rotary evaporation of solvent provided a light yellow solid. Trituration with EtOAc/Hexane (1:9) provided a white solid (4.56 g). 1H-NMR (300 MHz, CDCl3) δ 7.47 (d, 1H), 7.40 (d, 1H), 7.37 (s, 1H), 2.48 (s, 3H), 1.41 (s, 18H). LC/MS (ESI): M+H+ 349.2.

reactant | 5-methyl-benzo[d]isoxazol-3-ylamine | 4.6 g | CC=1C=CC2=C(C(=NO2)N)C1 | C8H8N2O
reactant | (Boc)2O | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 50 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | Bis-tert-butoxycarbonyl-(5-methyl-benzo[d]isoxazol-3-yl)-amine | C(C)(C)(C)OC(=O)N(C1=NOC2=C1C=C(C=C2)C)C(=O)OC(C)(C)C | C18H24N2O5
